US07417062B2
Step 1: (S)-2-{[(7-Methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl)-quinoxalin-2-ylmethyl-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester.
Experimental conditions analogous Example 1, 0.12 g (0.81 mmol) of quinoxaline-2-carbaldehyde, 0.24 g (1.22 mmol) of (S)-2-aminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester, 5 mL dichloromethane, and 0.25 g (1.22 mmol) of sodium triacetoxyborohydride. The reaction was quenched with aqueous sodium bicarbonate. The residue from the organic layer was purified using reverse phase HPLC, mobile phase with a gradient 10-70% acetonitrile in 40 min. Fractions containing pure product were evaporated in vacuum and dissolved in 3 mL dichloromethane. To this solution were added 0.34 mL (2.43 mmol) of triethylamine and 196 mg (0.81 mmol) of 7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl chloride. After 4 hours the reaction mixture was purified using flash chromatography (ethyl acetate in hexane), gave 280 mg as a yellow solid. LC-MSD, m/z for C30H36N4O6 [M+H]+: 549.7.

reactant | quinoxaline-2-carbaldehyde | 0.81 mmol, 0.12 g | N1=C(C=NC2=CC=CC=C12)C=O | C9H6N2O
reactant | (S)-2-aminomethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.22 mmol, 0.24 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CN | C10H20N2O2
reactant | sodium triacetoxyborohydride | 1.22 mmol, 0.25 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 2.43 mmol, 0.34 mL | C(C)N(CC)CC | C6H15N
reactant | 7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl chloride | 0.81 mmol, 196 mg | COC1=CC(=CC2=C1OC(O2)(C)C)C(=O)Cl | C11H11ClO4
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (S)-2-{[(7-Methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl)-quinoxalin-2-ylmethyl-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CN(CC1=NC2=CC=CC=C2N=C1)C(=O)C1=CC2=C(OC(O2)(C)C)C(=C1)OC | C30H36N4O6
